US06486190B1
A mixture of 7-cyano-4-methyl-5-nitrobenzimidazole (0.91 g, 4.5 mmol) and 10% palladium-on-carbon (100 mg) in methanol (200 mL) is treated with an atmosphere of hydrogen (1 atm, balloon) for 14 hours. The resulting mixture is filtered through Celite and rotary evaporated. The residue is purified by flash chromatography (silica gel, 95:5 ethyl acetate:methanol) to afford 5-amino-7-cyano-4-methylbenzimidazole.

reactant | 7-cyano-4-methyl-5-nitrobenzimidazole | 4.5 mmol, 0.91 g | C(#N)C1=CC(=C(C2=C1N=CN2)C)[N+](=O)[O-] | C9H6N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium-on-carbon | 100 mg | [Pd] | Pd
product | 5-amino-7-cyano-4-methylbenzimidazole | NC1=C(C2=C(N=CN2)C(=C1)C#N)C | C9H8N4
